US07148226B2
4-Bromo-2-chloro-thiobenzoic acid S-pyridin-2-yl ester
4-Bromo-2-chlorobenzoic acid (15 g, 63.70 mmol), triphenylphosphine (21.72 g, 82.81 mmol) and 2,2′-dipyridyl disulfide (18.24 g, 82.81 mmol) were combined successively in CH2Cl2 (200 mL). The reaction mixture was stirred 1 h and then loaded directly onto a column for purification by flash chromatography (10% EtOAc in hexanes) to give the product (13.34 g, 67%) as a white solid.

reactant | 4-Bromo-2-chlorobenzoic acid | 63.70 mmol, 15 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | triphenylphosphine | 82.81 mmol, 21.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2′-dipyridyl disulfide | 82.81 mmol, 18.24 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-chloro-thiobenzoic acid S-pyridin-2-yl ester | 13.34 g, 67% | N1=C(C=CC=C1)SC(C1=C(C=C(C=C1)Br)Cl)=O | C12H7BrClNOS
